US08685975B2
To a −20° C. solution of 4-(4-bromo-3,5-dimethoxyphenyl)thiazole (0.092 g, 0.305 mmol) in anhydrous THF (2 mL) under argon was added a solution of LDA (0.18 mL of a 2.0 M solution in THF/heptane/ethylbenzene, 0.37 mmol) dropwise. After stirring for 30 min, the reaction was cooled to −78° C. and a solution of 2-(4-(1H-pyrazol-1-yl)phenyl)-N,2-dimethoxy-N-methylacetamide (0.15 g, 0.55 mmol) in anhydrous THF (1.5 mL, 1.0 mL) was added dropwise. After stirring for 90 min, the mixture was quenched with brine and diluted with EtOAc. The layers were separated and the organic layer was washed with brine, dried over Na2SO4 and concentrated. Purification by chromatography (0-35% EtOAc-hexanes) gave 2-(4-(1H-pyrazol-1-yl)phenyl)-1-(4-(4-bromo-3,5-dimethoxyphenyl)thiazol-2-yl)-2-methoxyethanone as a yellow solid (0.030 g, 20% yield). MS: m/z 514.0 [M+H]+.

reactant | 4-(4-bromo-3,5-dimethoxyphenyl)thiazole | 0.305 mmol, 0.092 g | BrC1=C(C=C(C=C1OC)C=1N=CSC1)OC | C11H10BrNO2S
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | 2-(4-(1H-pyrazol-1-yl)phenyl)-N,2-dimethoxy-N-methylacetamide | 0.55 mmol, 0.15 g | N1(N=CC=C1)C1=CC=C(C=C1)C(C(=O)N(C)OC)OC | C14H17N3O3
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF heptane ethylbenzene | C1CCOC1.CCCCCCC.C(C)C1=CC=CC=C1
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 2-(4-(1H-pyrazol-1-yl)phenyl)-1-(4-(4-bromo-3,5-dimethoxyphenyl)thiazol-2-yl)-2-methoxyethanone | 0.030 g, 20% yield | N1(N=CC=C1)C1=CC=C(C=C1)C(C(=O)C=1SC=C(N1)C1=CC(=C(C(=C1)OC)Br)OC)OC | C23H20BrN3O4S
